US08975400B2
tert-butyl 7-((4-(3-chloro-4-fluorophenoxy)-3-cyanobenzyl)oxy)-5-oxo-2,3-dihydroimidazo[1,2-c]pyrimidine-1(5H)-carboxylate
The title compound was prepared by a procedure similar to that described for E1 starting from NaH, 2-(3-chloro-4-fluorophenoxy)-5-(hydroxymethy)benzonitrile and tert-butyl 7-chloro-5-oxo-2,3-dihydroimidazo[1,2-c]pyrimidine-1 (5H)-carboxylate.

reactant | NaH | [H-].[Na+]
reactant | 2-(3-chloro-4-fluorophenoxy)-5-(hydroxymethy)benzonitrile | ClC=1C=C(OC2=C(C#N)C=C(C=C2)CO)C=CC1F | C14H9ClFNO2
reactant | tert-butyl 7-chloro-5-oxo-2,3-dihydroimidazo[1,2-c]pyrimidine-1 (5H)-carboxylate | ClC=1C=C2N(C(N1)=O)CCN2C(=O)OC(C)(C)C | C11H14ClN3O3
product | tert-butyl 7-((4-(3-chloro-4-fluorophenoxy)-3-cyanobenzyl)oxy)-5-oxo-2,3-dihydroimidazo[1,2-c]pyrimidine-1(5H)-carboxylate | ClC=1C=C(OC2=C(C=C(COC=3C=C4N(C(N3)=O)CCN4C(=O)OC(C)(C)C)C=C2)C#N)C=CC1F | C25H22ClFN4O5
